US04198406
(a) 7-Amino-3-(3-carbamoylmethyl-1,2,4-triazol-5-ylthio)methylceph-3-em-4-carboxylic acid
7-ACA and 5-mercapto-1,2,4-triazol-3-ylacetamide were reacted as in example 23a to give the title compound, 58.4% yield; δ(CF3CO2H) 3.87 (2H, bs, C2 methylene), 4.38 (2H,s, --CH2CONH2), 4.55 (2H,bs, --CH2S--), 5.40 (2H,s, β-lactam protons), 7.1-7.8 (2H,m, --CONH2).

reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 5-mercapto-1,2,4-triazol-3-ylacetamide | SC1=NC(=NN1)CC(=O)N | C4H6N4OS
product | 7-Amino-3-(3-carbamoylmethyl-1,2,4-triazol-5-ylthio)methylceph-3-em-4-carboxylic acid | 58.4% yield | NC1[C@@H]2N(C(=C(CS2)CSC2=NC(=NN2)CC(N)=O)C(=O)O)C1=O | C12H14N6O4S2
